US05117000
Preparation of N-[1-(2-thienyl)ethyl]-acetamide:
Thiophene (8.40 g, 0.10 mol), paraldehyde (2.20 g, 0.017 mol) and acetamide (1.18 g, 0.05 mol) were added to a mixture of formic acid (6 ml) and 85% phosphoric acid (3 ml) and stirred at a room temperature for two hours. Water (50 ml) was added to the reaction mixture. The mixture was extracted with chloroform (50 ml), subjected to a silica gel column chromatography (eluent: chloroform) and recrystallized from petroleum benzine to obtain the entitled compound (1.5 g) as a colorless needle-shape crystal. Yield: 88.8 Melting point: 66° C.

reactant | Thiophene | 0.10 mol, 8.40 g | S1C=CC=C1 | C4H4S
reactant | paraldehyde | 0.017 mol, 2.20 g | CC1OC(OC(O1)C)C | C6H12O3
reactant | acetamide | 0.05 mol, 1.18 g | C(C)(=O)N | C2H5NO
reactant | phosphoric acid | 3 ml | P(O)(O)(O)=O | H3O4P
solvent | Water | 50 ml | O | H2O
solvent | formic acid | 6 ml | C(=O)O | CH2O2
product | N-[1-(2-thienyl)ethyl]-acetamide | 1.5 g | S1C(=CC=C1)C(C)NC(C)=O | C8H11NOS
